US05169838
Preparation of 2-ethyl-7-(1-oxopropoxy)-3-(1-oxopropyl)-4H-1-benzopyran-4-one
A solution of 5 g (32.2.10-3 mol) of 1-(2,4-dihydroxyphenyl)ethanone and 4 g (48.8.10-3 mol) of sodium acetate in 40 ml of propionic anhydride is kept at a temperature of 170° C. under an inert atmosphere for 20 hours. The reaction mixture is hydrolyzed in the presence of sodium bicarbonate and the product is extracted with ethyl acetate and then washed with water. The organic phase obtained is dried over magnesium sulfate. The solvent is evaporated off under reduced pressure. After the addition of toluene, the remaining solvents are evaporated off again under reduced pressure. After purification by chromatography on silica gel using a hexane/ethyl acetate mixture (6/1 v/v) as the eluent, 2 g (yield: 20%) of the expected product are obtained.

reactant | 1-(2,4-dihydroxyphenyl)ethanone | 5 g | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
reactant | sodium acetate | 4 g | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | propionic anhydride | 40 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-ethyl-7-(1-oxopropoxy)-3-(1-oxopropyl)-4H-1-benzopyran-4-one | 2 g, yield: 20% | C(C)C=1OC2=C(C(C1C(CC)=O)=O)C=CC(=C2)OC(CC)=O | C17H18O5
